US07429609B2
N-(4-Bromo-5-fluoro-2-methylphenyl)acetamide
73.6 mL of acetic anhydride was added with 80.0 g of 4-bromo-5-fluoro-2-methylphenylamine at room temperature, and stirred at this temperature for 10 minutes. Excess acetic anhydride was distilled off under reduced pressure, and the precipitated crystals were washed with water, to afford 77.6 g of the title compound as colorless crystal.

reactant | acetic anhydride | 73.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-bromo-5-fluoro-2-methylphenylamine | 80.0 g | BrC1=CC(=C(C=C1F)N)C | C7H7BrFN
product | N-(4-Bromo-5-fluoro-2-methylphenyl)acetamide | 77.6 g | BrC1=CC(=C(C=C1F)NC(C)=O)C | C9H9BrFNO
